US07153851B2
Process (A): (3R,4R)-3-Azidomethyl-1-benzyloxycarbonyl-4-hydroxypyrrolidine (1.20 g) was dissolved in dichloromethane (40 mL). While this solution was cooled on a sodium chloride/ice bath, diethylaminosulfur trifluoride (1.20 mL) was added dropwise and the mixture was stirred at room temperature for 3 hours. The reaction vessel was again cooled on a sodium chloride/ice bath and diethylaminosulfur trifluoride (0.57 mL) was again added dropwise. The mixture was then stirred at room temperature for 2 hours. While the reaction mixture was cooled on an ice bath, a saturated aqueous solution of sodium hydrogen carbonate (40 mL) was added dropwise and the dichloromethane layer was separated. The dichloromethane layer was sequentially washed with a saturated aqueous solution of sodium hydrogen carbonate (2×20 mL) and water (20 mL), followed by drying over anhydrous sodium sulfate and concentration under reduced pressure. The resulting residue was purified on a silica gel column (eluant=hexane:ethyl acetate=2:1) to give 726 mg of (3R,4S)-3-azidomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine as a pale brown oil.

reactant | (3R,4R)-3-Azidomethyl-1-benzyloxycarbonyl-4-hydroxypyrrolidine | 1.20 g | N(=[N+]=[N-])C[C@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C13H16N4O3
reactant | diethylaminosulfur trifluoride | 1.20 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | diethylaminosulfur trifluoride | 0.57 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium hydrogen carbonate | 40 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (3R,4S)-3-azidomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine | 726 mg | N(=[N+]=[N-])C[C@H]1CN(C[C@H]1F)C(=O)OCC1=CC=CC=C1 | C13H15FN4O2
